data/oMe_Silver.jsonl
{"reaction_id": "NR-245_1-c1cn(C)nc1_2-c1sc(Br)cc1","level": "medium","name": "Swern Oxidation","reactants_smiles": ["C(O)(c1cn(C)nc1)(c1sc(Br)cc1)","CS(C)=O","O=C(Cl)C(=O)Cl","CCN(CC)CC"],"products_smiles": ["C(=O)(c1cn(C)nc1)(c1sc(Br)cc1)"],"conditions": "Low temperature (-78 °C)","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C[S+](C)OC([O-])(Cl)C(=O)Cl","step_weight": 0,"rationale": "DMSO oxygen attacks electrophilic carbonyl of oxalyl chloride due to strong polarization, forming a chlorosulfonium intermediate stabilized by resonance with sulfur."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C[S+](C)OC(=O)C(=O)Cl","step_weight": 0,"rationale": "Chloride leaves as CO2 is expelled, driven by formation of stable gaseous products and relief of electron density on sulfur."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C[S+](C)Cl","step_weight": 0,"rationale": "Further elimination of CO gas occurs, favored by thermodynamic stability of gaseous products and increased electrophilicity of the sulfonium species."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1cn(C)nc1)(c1sc(Br)cc1)O[S](Cl)(C)C","step_weight": 0,"rationale": "Alcohol oxygen attacks the highly electrophilic sulfonium center, facilitated by low temperature preventing side reactions and by good leaving group potential of chloride."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1cn(C)nc1)(c1sc(Br)cc1)O[S](=C)C","step_weight": 0,"rationale": "Base-induced elimination removes a proton adjacent to oxygen, forming an alkoxysulfonium ylide stabilized by adjacent heteroatoms."},{"step": 6,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=O)(c1cn(C)nc1)(c1sc(Br)cc1)","step_weight": 0,"rationale": "The ylide undergoes a [2,3]-sigmatropic rearrangement, driven by relief of charge separation and formation of the stable carbonyl product."}],"description": "In the Swern oxidation, DMSO is activated by oxalyl chloride at low temperature to form an electrophilic sulfonium species. The alcohol attacks this intermediate, leading to an alkoxysulfonium salt. Subsequent elimination and rearrangement steps yield the aldehyde or ketone product under mild, non-aqueous conditions, avoiding overoxidation."}
